US06969712B2
Into a solution of 20.02 g of 4,5-dichloro-2-nitroaniline and 8.70 g of piperazine in 100 ml of cyclohexanol, 12.80 g of sodium carbonate was added and stirred at 150° C. for 14 hours. Cooling the reaction liquid to room temperature, water was added and the system was extracted with chloroform. The chloroform layer was dried on anhydrous magnesium sulfate and the solvent was distilled off. Thus obtained residue was washed with diisopropyl ether to provide 21.07 g of 4-chloro-2-nitro-5-(piperazin-1-yl) aniline as a yellow powder.

reactant | 4,5-dichloro-2-nitroaniline | 20.02 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | piperazine | 8.70 g | N1CCNCC1 | C4H10N2
reactant | sodium carbonate | 12.80 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | cyclohexanol | 100 ml | C1(CCCCC1)O | C6H12O
product | 4-chloro-2-nitro-5-(piperazin-1-yl) aniline | 21.07 g | ClC1=CC(=C(N)C=C1N1CCNCC1)[N+](=O)[O-] | C10H13ClN4O2
